US04602927
Using a procedure similar to that described in Example 1, a solution of 47 g of 3,5-dichlorophenyl isocyanate in 100 ml of chloroform was added dropwise to 29 g of 4-methyl-5-chloroimidazole, likewise dissolved in 100 ml of chloroform. Refluxing was carried out for 2 hours, after which the solution was cooled and the residue was filtered off under suction, washed with chloroform and dried to give 60 g (78.8%) of 1-N-(3,5-dichlorophenylcarbamyl)-4-methyl-5-chloroimidazole of melting point 136.9°-138.6° C.

reactant | 3,5-dichlorophenyl isocyanate | 47 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | 4-methyl-5-chloroimidazole | 29 g | CC=1N=CNC1Cl | C4H5ClN2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-N-(3,5-dichlorophenylcarbamyl)-4-methyl-5-chloroimidazole | 60 g, 78.8% | ClC=1C=C(C=C(C1)Cl)NC(=O)N1C=NC(=C1Cl)C | C11H8Cl3N3O
